US04224438
Adenosine-5'-carboxylic acid n-butyl ester
5 g of adenosine-5'-carboxylic acid methyl ester are dissolved in 200 ml of n-butanol and, together with 3 g of D-benzedrine, boiled under reflux for 3 hours. The reaction mixture is filtered and the filtrate evaporated in a vacuum. The evaporation residue is triturated with ether, filtered off with suction, again washed with ether and dried. There are thus obtained 5.6 g of adenosine-5'-carboxylic acid n-butyl ester, which has a melting point of 166°-167° C. The yield is 87% of theory. The crude product obtained can be recrystallized from water.

reactant | adenosine-5'-carboxylic acid methyl ester | 5 g | COC(=O)C([C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O)O | C12H15N5O6
reactant | n-butanol | 200 ml | C(CCC)O | C4H10O
product | Adenosine-5'-carboxylic acid n-butyl ester | yield is 87% | C(CCC)OC(=O)C([C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O)O | C15H21N5O6
